US06506773B2
2-(6-Cyclohexyl-3,4-dihydro-1H-isoquinoline-2-sulfonylmethyl)-N-hydroxy-3-methyl-butyramide
2-(6-Cyclohexyl-3,4-dihydro-1H-isoquinoline-2-sulfonylmethyl)-3-methyl-butyric acid (143 mg) was dissolved in dichloromethane (15 ml) under a nitrogen atmosphere and oxalyl chloride (0.15 ml) added, followed by a solution of 10% N,N-dimethylformamide in dichloromethane (7 drops). The reaction was stirred at room temperature for 2 h then evaporated under reduced pressure and azeotroped with 1:1 dichloromethane-hexane (2×10 ml). The residue was dried under vacuum then suspended in tetrahydrofuran (15 ml) and treated with 50%wt solution of aqueous hydroxylamine (0.7 ml). The mixture was left to stir at room temperature for 1 h then evaporated under reduced pressure. The residue was triturated with water (20 ml) and the resulting solid filtered off, washed with water (10 ml) and dried under vacuum at 40° C. to give the title compound (120 mg, 82%).

reactant | 2-(6-Cyclohexyl-3,4-dihydro-1H-isoquinoline-2-sulfonylmethyl)-3-methyl-butyric acid | 143 mg | C1(CCCCC1)C=1C=C2CCN(CC2=CC1)S(=O)(=O)CC(C(=O)O)C(C)C | C21H31NO4S
reactant | oxalyl chloride | 0.15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | dichloromethane | 7 drops | ClCCl | CH2Cl2
product | 2-(6-Cyclohexyl-3,4-dihydro-1H-isoquinoline-2-sulfonylmethyl)-N-hydroxy-3-methyl-butyramide | 120 mg, 82% | C1(CCCCC1)C=1C=C2CCN(CC2=CC1)S(=O)(=O)CC(C(=O)NO)C(C)C | C21H32N2O4S
